US07205302B2
5-(tert-butoxycarbonylmethoxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-1,2,3,4-tetrahydronaphthalene
To a solution of 413 mg of 2-[N-(5,6-diphenylpyrazin-2-yl)-N-methyl(aminomethyl)]-5-hydroxy-1,2,3,4-tetrahydronaphthalene and 210 mg of tert-butyl bromoacetate in 10 ml of acetonitrile, a catalytic amount of potassium iodide and 163 mg of potassium carbonate were added and the mixture was heated at reflux for 4 hours. The insoluble matter was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography to obtain 423 mg of the desired compound as a pale orange oily substance.

reactant | 2-[N-(5,6-diphenylpyrazin-2-yl)-N-methyl(aminomethyl)]-5-hydroxy-1,2,3,4-tetrahydronaphthalene | 413 mg | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CC1CC2=CC=CC(=C2CC1)O | C28H27N3O
reactant | tert-butyl bromoacetate | 210 mg | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium iodide | [I-].[K+]
reactant | potassium carbonate | 163 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 5-(tert-butoxycarbonylmethoxy)-2-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-1,2,3,4-tetrahydronaphthalene | 423 mg | C(C)(C)(C)OC(=O)COC1=C2CCC(CC2=CC=C1)CN(C)C1=NC(=C(N=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C34H37N3O3
